US07468375B2
Step 1: Methyl 1-(4-fluorobenzyl)-3-{[(1R)-1-phenylethoxy]methyl}-1H-pyrrolo[2,3-c]pyridine -5-carboxylate
The title compound was prepared as in example 116, step 1, using methyl 3-[(dimethylamino)methyl]-1-(4-fluorobenzyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylate and (1R)-1-phenylethanol. 1H NMR (300 MHz, CHLOROFORM-D) δ ppm 1.48 (d, J=6.41 Hz, 3H) 4.01 (s, 3H) 4.48-4.59 (m, 3H) 5.34 (s, 2H) 6.97-7.05 (m, 2H) 7.10-7.17 (m, 2H) 7.23 (s, 1H) 7.29-7.42 (m, 5H) 8.47 (s, 1H) 8.72 (s, 1H)

reactant | methyl 3-[(dimethylamino)methyl]-1-(4-fluorobenzyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylate | CN(C)CC1=CN(C2=CN=C(C=C21)C(=O)OC)CC2=CC=C(C=C2)F | C19H20FN3O2
reactant | (1R)-1-phenylethanol | C1(=CC=CC=C1)[C@@H](C)O | C8H10O
product | Methyl 1-(4-fluorobenzyl)-3-{[(1R)-1-phenylethoxy]methyl}-1H-pyrrolo[2,3-c]pyridine -5-carboxylate | FC1=CC=C(CN2C=C(C=3C2=CN=C(C3)C(=O)OC)CO[C@H](C)C3=CC=CC=C3)C=C1 | C25H23FN2O3
